US07067537B2
i) Production of 4-cyanobenzamide
By the reaction in the same manner as in Example 25-i) using 4-cyanobenzoyl chloride (5.30 g) and 28% aqueous ammonia (20 ml), the title compound (3.62 g) was obtained by pale-brown needle crystals.

reactant | 4-cyanobenzoyl chloride | 5.30 g | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | ammonia | 20 ml | N | H3N
product | 4-cyanobenzamide | 3.62 g | C(#N)C1=CC=C(C(=O)N)C=C1 | C8H6N2O
